US08115012B2
Preparation of 3-difluoromethyl-1-methylpyrazole-4-carboxylic acid
Magnesium turnings (4.9 g, 0.20 mol), trimethylsilyl chloride (32.6 g, 0.30 mmol) and anhydrous 1,3-dimethyl-2-imidazolidinone (DMI, 160 ml) were initially charged in a 500 ml three-necked flask fitted with magnetic stirrer and thermometer. After activation of the magnesium with iodine, methyl 2-methoxymethylene-4,4,4-trifluoro-3-oxobutyrate (21.3 g, 0.10 mol) was added in an ice-bath over a period of 30 min, the reaction temperature being kept within a range of from 20 to 30° C. After a further 60 min at room temperature, excess trimethylsilyl chloride was removed under reduced pressure. In a second 500 ml three-necked flask, an aqueous methylhydrazine solution (37%, 14.8 g, 0.12 mol) and methanol (320 ml) were initially charged at −50° C. Over a period of 60 min, the cooled reaction solution of the first reaction was added, with cooling being maintained. After a further 2 hours at −50° C., the reaction mixture was allowed to warm to room temperature and stirred for a further 10 hours. According to GC analysis, the reaction mixture contained methyl 3-difluoromethyl-1-methylpyrazole-4-carboxylate (isomer a) as a mixture with methyl 2-difluoromethyl-1-methylpyrazole-3-carboxylate (isomer b) in an a:b isomer ratio of 90:10. The reaction mixture was then concentrated under reduced pressure. 120 g of 10% strength aqueous sodium hydroxide solution were added to the residue, and the mixture was stirred at 100° C. for 4 h. After acidification of the aqueous solution with hydrochloric acid to pH 1 and repeated extraction with MTBE, an organic solution comprising 13.4 g of the title compound (yield isomer a: 71%) was obtained. The title compound was isolated by crystallization as a light-brown solid.

reactant | Magnesium | 0.20 mol, 4.9 g | [Mg] | Mg
reactant | trimethylsilyl chloride | 0.30 mmol, 32.6 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1,3-dimethyl-2-imidazolidinone | 160 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | iodine | II | I2
reactant | methyl 2-methoxymethylene-4,4,4-trifluoro-3-oxobutyrate | 0.10 mol, 21.3 g | COC=C(C(=O)OC)C(C(F)(F)F)=O | C7H7F3O4
reactant | methylhydrazine | 0.12 mol, 14.8 g | CNN | CH6N2
reactant | methyl 3-difluoromethyl-1-methylpyrazole-4-carboxylate | FC(C1=NN(C=C1C(=O)OC)C)F | C7H8F2N2O2
reactant | methyl 2-difluoromethyl-1-methylpyrazole-3-carboxylate | FC(N1N(C=CC1C(=O)OC)C)F | C7H10F2N2O2
solvent | methanol | 320 ml | CO | CH4O
product | 3-difluoromethyl-1-methylpyrazole-4-carboxylic acid | FC(C1=NN(C=C1C(=O)O)C)F | C6H6F2N2O2
